US05175274
2-Amino-9-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-6-ethoxy-9H-purine
2-Amino-6-ethoxypurine (0.5 g, 2.8 mmoles) which may be prepared according to R. W. Balsiger and J. A. Montgomery J. Org. Chem., 25:1573, 1960) and 1-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)thymine (C. H. Tann et al., J. Org. Chem., 50:3647, 1985; 0.5 g; 1.9 mmoles) were suspended in 25 ml of 5 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. Thymidine phosphorylase (8,000 I.U) and purine nucleoside phosphorylase (11,100 I.U.) (T. A. Krenitsky, et al., Biochemistry, 20:3615, 1981 and U.S. Pat. No. 4.381,444) were added and the reaction stirred at 37° C. On day 24, 8,000 I.U. of thymidine phosphorylase and 5,500 I.U. of purine nucleoside phosphorylase were added. On day 49, the reaction was diluted to 250 ml with 5 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. The pH of the reaction was adjusted to 7.0 with KOH and 12,000 I.U. of thymidine phosphorylase and 8,300 I.U. of purine nucleoside phosphorylase were added. On day 79, the solvent was removed under vacuum. The residue was dissolved in hot water and two volumes of acetonitrile added to precipitate the protein. After standing overnight the suspension was filtered. The filtrate was evaporated. The residue was dissolved in hot water and then allowed to cool to 25° C. The suspension was filtered and the filtrate applied to a 2.5×8 cm AG1X2-hydroxide (Bio-Rad) column. After washing the column with water and methanol/water (1/1) the product was eluted with methanol water (9/1). Product containing fractions were combined and the solvent removed under vacuum. The residue was dissolved in chloroform/methanol/water (90/10/1) and applied to a 2.5×55 cm silica gel column. The column was eluted with chloroform/methanol/water (90/10/1). Product containing fractions were combined and the solvent removed under vacuum. The residue was dissolved in water and lyophilisation yielded 0.041 g of title compound that analysed as 0.4 hydrate.

reactant | 2-Amino-6-ethoxypurine | 2.8 mmoles, 0.5 g | NC1=NC(=C2NC=NC2=N1)OCC | C7H9N5O
reactant | 1-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)thymine | 1.9 mmoles, 0.5 g | F[C@@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(C)=C1 | C10H13FN2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | Thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | KOH | [OH-].[K+]
solvent | potassium phosphate | 5 mM, 25 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | potassium phosphate | 5 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 2-Amino-9-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-6-ethoxy-9H-purine | 0.041 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H]([C@H](O)[C@H](O1)CO)F)OCC | C12H16FN5O4
